US03958003
p-Fluoro-4-(3-methylcarbamoyloxyspiro[indan-1,3'-pyrrolidin]-1'-yl) butyrophenone
9.0 g of p-fluoro-4-(3-hydroxyspiro[indan-1,3'-pyrrolidin]-1'-yl) butyrophenone and 2.0 g of methyl isocyanate are dissolved in 50 cc of methylene chloride. After allowing the reaction solution to stand at room temperature for 20 hours, it is concentrated by evaporation, and the resulting oil is converted into the hydrogen fumarate. After recrystallization from ethanol/ether, the hydrogen fumarate of the title compound has a M.P. of 167°-169°.

reactant | p-fluoro-4-(3-hydroxyspiro[indan-1,3'-pyrrolidin]-1'-yl) butyrophenone | 9.0 g | FC1=CC=C(C=C1)C(CCCN1CC2(CC1)CC(C1=CC=CC=C12)O)=O | C22H24FNO2
reactant | methyl isocyanate | 2.0 g | CN=C=O | C2H3NO
solvent | methylene chloride | 50 cc | C(Cl)Cl | CH2Cl2
product | p-Fluoro-4-(3-methylcarbamoyloxyspiro[indan-1,3'-pyrrolidin]-1'-yl) butyrophenone | FC1=CC=C(C=C1)C(CCCN1CC2(CC1)CC(C1=CC=CC=C12)OC(NC)=O)=O | C24H27FN2O3
